US08003647B2
3-(3-Cyanoindol-1-yl)benzoic acid ethyl ester
To a solution of 1H-indole-3-carbonitrile (0.28 g) in dimethyl sulfoxide (3 mL) were added 3-iodobenzoic acid ethyl ester (0.61 g), cesium carbonate (0.65 g), copper iodide (0.038 g) and N,N-dimethyl grycine (0.041 g), this mixture was stirred at 75° C. for 3 days. To this reaction mixture was added ethyl acetate, the insoluble material was removed by filtration and this filtrate was concentrated under reduced pressure. To this residue was added water, the precipitated solid was collected by filtration, and washed with water and n-hexane, and dried under reduced pressure at 40° C. to give the title compound (0.38 g).

reactant | 1H-indole-3-carbonitrile | 0.28 g | N1C=C(C2=CC=CC=C12)C#N | C9H6N2
reactant | 3-iodobenzoic acid ethyl ester | 0.61 g | C(C)OC(C1=CC(=CC=C1)I)=O | C9H9IO2
reactant | cesium carbonate | 0.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.038 g | [Cu](I)I
product | 3-(3-Cyanoindol-1-yl)benzoic acid ethyl ester | 0.38 g | C(C)OC(C1=CC(=CC=C1)N1C=C(C2=CC=CC=C12)C#N)=O | C18H14N2O2
